US08912188B2
To a solution of methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate (270 mg, 0.85 mmol) in DMSO (1 mL) was added (R)-2-(trifluoromethyl)pyrrolidine (275 mg, 1.99 mmol). The resulting solution was stirred 7 days at 130° C. and then evaporated in vacuo. The residue was diluted with petroleum ether (15 mL) and filtered. The filtrate was concentrated and purified by a silica gel column chromatography with 2%-10% ethyl acetate in petroleum ether to afford (R)-methyl 2-(4-fluorophenyl)-3-(2-(trifluoromethyl)pyrrolidin-1-yl)quinoxaline-6-carboxylate as a yellow solid (35 mg, crude).

reactant | methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.85 mmol, 270 mg | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | (R)-2-(trifluoromethyl)pyrrolidine | 1.99 mmol, 275 mg | FC([C@@H]1NCCC1)(F)F | C5H8F3N
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | (R)-methyl 2-(4-fluorophenyl)-3-(2-(trifluoromethyl)pyrrolidin-1-yl)quinoxaline-6-carboxylate | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCC1)C(F)(F)F)C(=O)OC | C21H17F4N3O2
